* NGSPICE file created from mult4_SARSA_RUIDO_e9_SarsaNada_e6_SARSA_RUIDO_e9_SARSA_RUIDO_e9.ext - technology: sky130A

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_3 abstract view
.subckt sky130_fd_sc_hd__decap_3 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_1 abstract view
.subckt sky130_fd_sc_hd__fill_1 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_ef_sc_hd__decap_12 abstract view
.subckt sky130_ef_sc_hd__decap_12 VPWR VGND VPB VNB
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and3_1 abstract view
.subckt sky130_fd_sc_hd__and3_1 A B C VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21o_1 abstract view
.subckt sky130_fd_sc_hd__a21o_1 A1 A2 B1 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21oi_1 abstract view
.subckt sky130_fd_sc_hd__a21oi_1 A1 A2 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_6 abstract view
.subckt sky130_fd_sc_hd__decap_6 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_8 abstract view
.subckt sky130_fd_sc_hd__decap_8 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4_1 abstract view
.subckt sky130_fd_sc_hd__and4_1 A B C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_2 abstract view
.subckt sky130_fd_sc_hd__buf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__decap_4 abstract view
.subckt sky130_fd_sc_hd__decap_4 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__fill_2 abstract view
.subckt sky130_fd_sc_hd__fill_2 VGND VNB VPB VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2b_1 abstract view
.subckt sky130_fd_sc_hd__and2b_1 A_N B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a22o_1 abstract view
.subckt sky130_fd_sc_hd__a22o_1 A1 A2 B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a21bo_1 abstract view
.subckt sky130_fd_sc_hd__a21bo_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__tapvpwrvgnd_1 abstract view
.subckt sky130_fd_sc_hd__tapvpwrvgnd_1 VGND VPWR
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or3b_1 abstract view
.subckt sky130_fd_sc_hd__or3b_1 A B C_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xnor2_1 abstract view
.subckt sky130_fd_sc_hd__xnor2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a32o_1 abstract view
.subckt sky130_fd_sc_hd__a32o_1 A1 A2 A3 B1 B2 VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__xor2_1 abstract view
.subckt sky130_fd_sc_hd__xor2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or4bb_1 abstract view
.subckt sky130_fd_sc_hd__or4bb_1 A B C_N D_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and4bb_1 abstract view
.subckt sky130_fd_sc_hd__and4bb_1 A_N B_N C D VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand2_1 abstract view
.subckt sky130_fd_sc_hd__nand2_1 A B VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nand4_2 abstract view
.subckt sky130_fd_sc_hd__nand4_2 A B C D VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__buf_1 abstract view
.subckt sky130_fd_sc_hd__buf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_2 abstract view
.subckt sky130_fd_sc_hd__clkbuf_2 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__clkbuf_1 abstract view
.subckt sky130_fd_sc_hd__clkbuf_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__a31oi_2 abstract view
.subckt sky130_fd_sc_hd__a31oi_2 A1 A2 A3 B1 VGND VNB VPB VPWR Y
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__dlymetal6s2s_1 abstract view
.subckt sky130_fd_sc_hd__dlymetal6s2s_1 A VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__mux2_1 abstract view
.subckt sky130_fd_sc_hd__mux2_1 A0 A1 S VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__o21ba_1 abstract view
.subckt sky130_fd_sc_hd__o21ba_1 A1 A2 B1_N VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__and2_1 abstract view
.subckt sky130_fd_sc_hd__and2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__or2_1 abstract view
.subckt sky130_fd_sc_hd__or2_1 A B VGND VNB VPB VPWR X
.ends

* Black-box entry subcircuit for sky130_fd_sc_hd__nor2_1 abstract view
.subckt sky130_fd_sc_hd__nor2_1 A B VGND VNB VPB VPWR Y
.ends

.subckt mult4_SARSA_RUIDO_e9_SarsaNada_e6_SARSA_RUIDO_e9_SARSA_RUIDO_e9 A[0] A[1]
+ A[2] A[3] B[0] B[1] B[2] B[3] P[0] P[1] P[2] P[3] P[4] P[5] P[6] P[7] VGND VPWR
XFILLER_3_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_0_35 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_0_57 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_49_ _11_ _12_ _14_ VGND VGND VPWR VPWR _15_ sky130_fd_sc_hd__and3_1
X_66_ _15_ _25_ _29_ VGND VGND VPWR VPWR _30_ sky130_fd_sc_hd__a21o_1
XFILLER_6_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_4_Left_14 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_65_ _20_ _24_ _23_ VGND VGND VPWR VPWR _29_ sky130_fd_sc_hd__a21oi_1
XFILLER_9_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_0_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_0_69 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_48_ net6 net3 _06_ _13_ VGND VGND VPWR VPWR _14_ sky130_fd_sc_hd__and4_1
Xoutput10 net10 VGND VGND VPWR VPWR P[1] sky130_fd_sc_hd__buf_2
XPHY_EDGE_ROW_6_Right_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_5_6 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_9_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
X_64_ _26_ _27_ VGND VGND VPWR VPWR _28_ sky130_fd_sc_hd__and2b_1
X_47_ net7 net2 net8 net1 VGND VGND VPWR VPWR _13_ sky130_fd_sc_hd__a22o_1
XFILLER_0_15 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_3_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_58 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput9 net9 VGND VGND VPWR VPWR P[0] sky130_fd_sc_hd__buf_2
Xoutput11 net11 VGND VGND VPWR VPWR P[2] sky130_fd_sc_hd__buf_2
X_63_ net8 net4 _05_ net3 VGND VGND VPWR VPWR _27_ sky130_fd_sc_hd__a22o_1
X_46_ _09_ _10_ _04_ VGND VGND VPWR VPWR _12_ sky130_fd_sc_hd__a21bo_1
XFILLER_0_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_5_26 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_6_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_6_26 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xoutput12 net12 VGND VGND VPWR VPWR P[3] sky130_fd_sc_hd__buf_2
XFILLER_1_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_62_ net3 net8 net4 _05_ VGND VGND VPWR VPWR _26_ sky130_fd_sc_hd__and4_1
XPHY_EDGE_ROW_8_Left_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_45_ _04_ _08_ _10_ VGND VGND VPWR VPWR _11_ sky130_fd_sc_hd__or3b_1
XFILLER_7_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
Xoutput13 net13 VGND VGND VPWR VPWR P[4] sky130_fd_sc_hd__buf_2
X_61_ _21_ _25_ VGND VGND VPWR VPWR net14 sky130_fd_sc_hd__xnor2_1
XFILLER_9_16 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_44_ net2 net8 _06_ net4 net6 VGND VGND VPWR VPWR _10_ sky130_fd_sc_hd__a32o_1
XFILLER_0_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_4_71 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
Xoutput14 net14 VGND VGND VPWR VPWR P[5] sky130_fd_sc_hd__buf_2
X_60_ _23_ _24_ VGND VGND VPWR VPWR _25_ sky130_fd_sc_hd__xor2_1
X_43_ _05_ _07_ net2 net8 VGND VGND VPWR VPWR _09_ sky130_fd_sc_hd__or4bb_1
Xoutput15 net15 VGND VGND VPWR VPWR P[6] sky130_fd_sc_hd__buf_2
XFILLER_7_50 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_6_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_18 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XPHY_EDGE_ROW_1_Right_1 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_8_29 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_9_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_42_ _05_ _07_ net2 net8 VGND VGND VPWR VPWR _08_ sky130_fd_sc_hd__and4bb_1
XFILLER_1_41 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xoutput16 net16 VGND VGND VPWR VPWR P[7] sky130_fd_sc_hd__buf_2
XFILLER_4_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_41_ net6 net4 VGND VGND VPWR VPWR _07_ sky130_fd_sc_hd__nand2_1
XTAP_TAPCELL_ROW_0_20 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_1_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_30 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
X_40_ net1 net7 net2 net8 VGND VGND VPWR VPWR _06_ sky130_fd_sc_hd__nand4_2
XTAP_TAPCELL_ROW_0_21 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_53 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_1_7 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_3_Left_13 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_7_20 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_5_Right_5 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_9_31 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_7_76 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_4_45 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
Xinput1 A[0] VGND VGND VPWR VPWR net1 sky130_fd_sc_hd__buf_1
XPHY_EDGE_ROW_7_Left_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_1_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XPHY_EDGE_ROW_9_Right_9 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_3_24 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_4_79 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
Xinput2 A[1] VGND VGND VPWR VPWR net2 sky130_fd_sc_hd__clkbuf_2
XFILLER_7_57 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_4_25 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput3 A[2] VGND VGND VPWR VPWR net3 sky130_fd_sc_hd__clkbuf_2
XPHY_EDGE_ROW_0_Right_0 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_59 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput4 A[3] VGND VGND VPWR VPWR net4 sky130_fd_sc_hd__buf_1
XFILLER_7_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_8_80 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XTAP_TAPCELL_ROW_6_27 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
Xinput5 B[0] VGND VGND VPWR VPWR net5 sky130_fd_sc_hd__clkbuf_1
X_59_ net7 net3 _10_ _08_ VGND VGND VPWR VPWR _24_ sky130_fd_sc_hd__a31oi_2
XFILLER_4_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_1_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
Xinput6 B[1] VGND VGND VPWR VPWR net6 sky130_fd_sc_hd__dlymetal6s2s_1
XPHY_EDGE_ROW_2_Left_12 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_58_ net3 _22_ _06_ VGND VGND VPWR VPWR _23_ sky130_fd_sc_hd__mux2_1
XPHY_EDGE_ROW_4_Right_4 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_4_29 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_1_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
Xinput7 B[2] VGND VGND VPWR VPWR net7 sky130_fd_sc_hd__clkbuf_2
XFILLER_7_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_73 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_57_ net3 net8 VGND VGND VPWR VPWR _22_ sky130_fd_sc_hd__nand2_1
Xinput8 B[3] VGND VGND VPWR VPWR net8 sky130_fd_sc_hd__clkbuf_2
X_56_ _16_ _20_ _15_ VGND VGND VPWR VPWR _21_ sky130_fd_sc_hd__o21ba_1
X_39_ net1 net7 net2 net8 VGND VGND VPWR VPWR _05_ sky130_fd_sc_hd__and4_1
XPHY_EDGE_ROW_6_Left_16 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_55_ _17_ _20_ VGND VGND VPWR VPWR net13 sky130_fd_sc_hd__xnor2_1
XFILLER_8_74 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_38_ net7 net3 VGND VGND VPWR VPWR _04_ sky130_fd_sc_hd__nand2_1
XPHY_EDGE_ROW_8_Right_8 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_71_ mul_ll.pp2 VGND VGND VPWR VPWR net10 sky130_fd_sc_hd__clkbuf_1
XFILLER_2_21 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_54_ _03_ _14_ _18_ VGND VGND VPWR VPWR _20_ sky130_fd_sc_hd__or3b_1
XFILLER_2_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_37_ _02_ _03_ VGND VGND VPWR VPWR net11 sky130_fd_sc_hd__and2_1
X_70_ mul_ll.pp1 VGND VGND VPWR VPWR net9 sky130_fd_sc_hd__clkbuf_1
XTAP_TAPCELL_ROW_1_22 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_5_54 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_2_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_53_ _14_ _18_ VGND VGND VPWR VPWR _19_ sky130_fd_sc_hd__and2b_1
XFILLER_4_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
X_36_ _00_ _01_ VGND VGND VPWR VPWR _03_ sky130_fd_sc_hd__nand2_1
XFILLER_5_33 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_5_66 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_52_ net6 net3 _06_ _13_ VGND VGND VPWR VPWR _18_ sky130_fd_sc_hd__a22o_1
X_35_ _00_ _01_ VGND VGND VPWR VPWR _02_ sky130_fd_sc_hd__or2_1
XFILLER_8_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_5_78 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
X_51_ _15_ _16_ VGND VGND VPWR VPWR _17_ sky130_fd_sc_hd__nor2_1
XFILLER_8_23 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_0_3 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_34_ net7 net6 net2 VGND VGND VPWR VPWR _01_ sky130_fd_sc_hd__mux2_1
XPHY_EDGE_ROW_1_Left_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_2_36 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_50_ _11_ _12_ _14_ VGND VGND VPWR VPWR _16_ sky130_fd_sc_hd__a21oi_1
X_33_ net5 net3 VGND VGND VPWR VPWR _00_ sky130_fd_sc_hd__and2_1
XTAP_TAPCELL_ROW_4_25 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XPHY_EDGE_ROW_3_Right_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_2_48 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
XFILLER_8_47 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_32_ net1 net5 VGND VGND VPWR VPWR mul_ll.pp1 sky130_fd_sc_hd__and2_1
X_31_ net6 net1 VGND VGND VPWR VPWR mul_ll.pp2 sky130_fd_sc_hd__and2_1
XFILLER_8_37 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_3_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_6_70 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_2_17 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_4
XFILLER_8_27 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_5_Left_15 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XPHY_EDGE_ROW_7_Right_7 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XTAP_TAPCELL_ROW_7_28 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
XFILLER_8_29 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_8
XFILLER_7_3 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XPHY_EDGE_ROW_9_Left_19 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_9_51 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_20 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
X_69_ _27_ _30_ _26_ VGND VGND VPWR VPWR net16 sky130_fd_sc_hd__a21o_1
XFILLER_9_63 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_41 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_0_Left_10 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_32 VPWR VGND VPWR VGND sky130_ef_sc_hd__decap_12
XFILLER_9_75 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_6
X_68_ _03_ _19_ VGND VGND VPWR VPWR net12 sky130_fd_sc_hd__xnor2_1
XFILLER_0_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XPHY_EDGE_ROW_2_Right_2 VGND VGND VPWR VPWR sky130_fd_sc_hd__decap_3
XFILLER_3_11 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
XFILLER_3_44 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_2
XFILLER_3_55 VGND VGND VPWR VPWR sky130_fd_sc_hd__fill_1
X_67_ _28_ _30_ VGND VGND VPWR VPWR net15 sky130_fd_sc_hd__xor2_1
XTAP_TAPCELL_ROW_2_23 VGND VPWR sky130_fd_sc_hd__tapvpwrvgnd_1
.ends

